Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bladder tumor, bulbar urethral stricture
 
Major Surgical or Invasive Procedure:
___: 
1. Cystoscopy.
2. Transurethral resection of medium-sized bladder tumor.
3. Bilateral retrograde pyelogram.

 
History of Present Illness:
___ y/o male with h/o nephrolithiasis, noted on routine UA to 
have MH and found to have sessile ~2-3 cm left lateral wall 
bladder tumor. Has reported history of delayed bleeding after 
surgical procedures, but full hem/onc workup negative. Also with 
minor and fairly soft ___ Fr) bulbar urethral stricture.
 
Past Medical History:
PMH/PSH:
- nephrolithiasis s/p R URS/LL in ___
- post-procedural bleeding after wisdom tooth extraction and 
ureteral stent removal (req CBI)
- HTN
- HLD

 
Social History:
___
Family History:
FAMILY HISTORY: A brother had excessive bleeding after dental
extractions; none of his other 5 siblings nor his 4 children 
have
had excessive bleeding. His father died at age ___ post-op
following removal of a kidney. Two uncles had cancer (unknown
type).
 
Physical Exam:
WDWN male, NAD, AVSS
abdomen soft, NT/ND
l/e w/out e/p/c/d
foley secured; uop yellow
 
Pertinent Results:
NONE for this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service 
after cystoscopy, transurethral resection of medium-sized 
bladder tumor and bilateral retrograde pyelograms.  He tolerated 
the procedure and no concerning intraoperative events occurred; 
please see dictated operative note for details. Mr. ___ 
received ___ antibiotic prophylaxis and his 
postoperative course was uncomplicated. He did have some 
intractable bladder pain/urgency post operatively that gradually 
improved with medication titration and use of B&O suppository. 
He received intravenous antibiotics and continuous bladder 
irrigation overnight. On POD1 the CBI was discontinued. His 
urine was clear-yellow and without clots. He remained a-febrile 
throughout his hospital stay.  At discharge, Mr. ___ had 
pain well controlled with oral pain medications, was tolerating 
regular diet, ambulating without assistance, and versed on foley 
care/hygiene.  He was given oral pain medications on discharge 
and explicit instructions to follow up in clinic for trial of 
void. He and his family know to hold the anticholinergics for 
the day before and day of planned void trial.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg HALF to ONE FULl tablet(s) by mouth Q4hrs 
Disp #*15 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 8.6 mg PO BID 
RX *sennosides 8.6 mg ONE tab by mouth ___ x daily Disp #*60 
Tablet Refills:*0 
6.  trospium ___ mg oral BID:PRN bladder spasm Duration: 7 
Days 
Stop taking 24 hours before catheter removal 
RX *trospium 20 mg HALF to ONE FULL tab by mouth twice a day 
Disp #*10 Tablet Refills:*0 
7.  amLODIPine 2.5 mg PO DAILY  
8.  Simvastatin 20 mg PO QPM  
9.Rx's
Rx's have been provided for Trospium, cipro, pyridium 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PREOPERATIVE DIAGNOSES:
1. Bulbar urethral stricture.
2. Medium-sized bladder tumor.

POSTOPERATIVE DIAGNOSES:
1. Bulbar urethral stricture.
2. Medium-sized bladder tumor.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 
•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 

The anti-bladder spasm medications you are prescribed can cause 
constipation as well; make sure to take fiber supplements, stool 
softeners, and laxatives as needed in order to keep your bowels 
moving.

•Don't take blood-thinning medications until your doctor says 
it's OK. 
•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Stool softeners have been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops.

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger

 
Followup Instructions:
___